US03993646
Sodium tungstate dihydrate (500 mg.) was added to a solution of 2,2,2-trichloroethyl 6-(2-phenylacetamido)-2,2-dimethylpenam-3-carboxylate (31.5 g.) in acetic acid (150 cc.), and to the mixture was added, dropwise, 30% hydrogen peroxide (9.1 cc) while cooling in an ice bath. The mixture was stirred for 1.5 hours, and then water was added thereto. The precipitate was collected by filtration, washed with water and dried to yield crystals (33.2 g.) of 2,2,2-trichloroethyl 6-(2-phenylacetamido)-2,2-dimethylpenam-3-carboxylate-1-oxide, m.p. 165.5° - 168.5° C.

reactant | 2,2,2-trichloroethyl 6-(2-phenylacetamido)-2,2-dimethylpenam-3-carboxylate | 31.5 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C18H19Cl3N2O4S
reactant | hydrogen peroxide | 9.1 cc | OO | H2O2
reactant | water | O | H2O
solvent | acetic acid | 150 cc | C(C)(=O)O | C2H4O2
catalyst | Sodium tungstate dihydrate | 500 mg | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 2,2,2-trichloroethyl 6-(2-phenylacetamido)-2,2-dimethylpenam-3-carboxylate-1-oxide | 33.2 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2=O)(C)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C18H19Cl3N2O5S
